US08222416B2
To a solution of 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-ylamine hydrochloride (454 mg, 1.05 mmol) in concentrated hydrochloric acid (6 mL) at 0° C. was added a solution of sodium nitrite (360 mg, 5.25 mmol) in water (3 mL) dropwise. After stirring for 10 min at 0° C., a solution of copper (I) chloride (310 mg, 3.15 mmol) in concentrated hydrochloric acid (3 mL) was added. After stirring for another 10 min at 60° C., the mixture was treated with 20% sodium hydroxide solution (pH 8), extracted with dichloromethane, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 5-chloro-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (50 mg, 11%): LC/MS m/e calcd for C21H23ClN2O3S [M+H]+ 419.95, observed 419.3; 1H NMR (400 MHz, CD3OD) δ ppm 8.06 (s, 1H), 7.87-7.92 (m, 3H), 7.60 (d, J=8.1 Hz, 2H), 6.39 (s, 1H), 4.43 (t, J=8.0 Hz, 1H), 3.85-3.92 (m, 2H), 3.21-3.29 (m, 2H), 3.09 (s, 3H), 2.18-2.26 (m, 1H), 1.98-2.06 (m, 1H), 1.62-1.75 (m, 2H), 1.30-1.51 (m, 3H).

reactant | 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-ylamine hydrochloride | 1.05 mmol, 454 mg | Cl.CS(=O)(=O)C1=CC=C(C=C1)C(CC1CCOCC1)C1=CC=2C(=NC=C(C2)N)N1
reactant | sodium nitrite | 5.25 mmol, 360 mg | N(=O)[O-].[Na+]
reactant | sodium hydroxide | pH 8 | [OH-].[Na+]
solvent | hydrochloric acid | 6 mL | Cl | ClH
solvent | water | 3 mL | O | H2O
solvent | hydrochloric acid | 3 mL | Cl | ClH
catalyst | copper (I) chloride | 3.15 mmol, 310 mg | [Cu]Cl
product | 5-chloro-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 50 mg, 11% | ClC=1C=C2C(=NC1)NC(=C2)C(CC2CCOCC2)C2=CC=C(C=C2)S(=O)(=O)C | C21H23ClN2O3S
